* Created by KLayout
*** My special header ***

* cell tr_1um_fujimoto_kuniaki2
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
* pin fg
.SUBCKT tr_1um_fujimoto_kuniaki2 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7
+ P9 VDD VSS fg
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -698,250
X$2 P7 P3 VDD VSS inv_ckb
* cell instance $9 r0 *1 -840,-1000
X$9 VDD fg P10 VSS judge
* cell instance $81 r0 *1 -654,250
X$81 P2 P3 VDD VSS inv_ckb
* cell instance $82 r0 *1 -742,250
X$82 P6 P3 VDD VSS inv_ckb
* cell instance $83 r0 *1 740,-420
X$83 P15 \$47 VDD VSS inv_ckb
* cell instance $84 r0 *1 -830,250
X$84 P4 P3 VDD VSS inv_ckb
* cell instance $85 r0 *1 -786,250
X$85 P5 P3 VDD VSS inv_ckb
* device instance $1 r0 *1 780,-795 PMOS
XM$1 VDD P9 \$53 VDD PMOS L=5u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $2 r0 *1 720,-795 PMOS
XM$2 VDD fg \$47 VDD PMOS L=5u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $3 r0 *1 760,-795 PMOS
XM$3 \$47 P9 fg VDD PMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $4 r0 *1 780,-725 NMOS
XM$4 VSS P9 \$53 VSS NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $5 r0 *1 760,-725 NMOS
XM$5 \$47 \$53 fg VSS NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $6 r0 *1 720,-725 NMOS
XM$6 VSS fg \$47 VSS NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $7 r0 *1 -200,-770 F_CSIO
XC$7 fg P11 VSS F_CSIO C=7.326e-12 A=12210p P=442u X=110 Y=111 m=1
* device instance $8 r0 *1 200,-770 F_CSIO
XC$8 fg P13 VSS F_CSIO C=7.326e-12 A=12210p P=442u X=110 Y=111 m=1
* device instance $9 r0 *1 400,-770 F_CSIO
XC$9 fg P14 VSS F_CSIO C=7.326e-12 A=12210p P=442u X=110 Y=111 m=1
* device instance $10 r0 *1 0,-770 F_CSIO
XC$10 fg P12 VSS F_CSIO C=7.326e-12 A=12210p P=442u X=110 Y=111 m=1
.ENDS tr_1um_fujimoto_kuniaki2

* cell judge
* pin vdd
* pin fg
* pin fgmon
* pin vss
.SUBCKT judge vdd fg fgmon vss
* device instance $1 r0 *1 1568,496 PMOS
XM$1 vdd vss \$2 vdd PMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $2 r0 *1 1608,386 NMOS
XM$2 fgmon \$2 vss vss NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 1544,386 NMOS
XM$3 vss \$2 \$2 vss NMOS L=5u W=60u AS=116p AD=116p PS=91.6u PD=91.6u
* device instance $6 r0 *1 1584,386 NMOS
XM$6 vdd fg fgmon vss NMOS L=5u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
.ENDS judge

* cell inv_ckb
* pin clkb
* pin clk
* pin vdd
* pin vss
.SUBCKT inv_ckb clkb clk vdd vss
* device instance $1 r0 *1 8,93 PMOS
XM$1 vdd clk clkb vdd PMOS L=5u W=80u AS=146p AD=146p PS=114.6u PD=114.6u
* device instance $5 r0 *1 20,21 NMOS
XM$5 vss clk clkb vss NMOS L=5u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
.ENDS inv_ckb

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VDD PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VSS PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
